US07612114B2
N-(2-Bromo-5-methoxyphenyl)-N-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]acetamide
A mixture of (2-bromo-5-methoxyphenyl) [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amine (690 mg), pyridine (2 ml) and acetic anhydride (2 ml) was stirred for 4 hours at 80° C. The reaction mixture was diluted with an aqueous solution of 1N sodium hydroxide, extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (530 mg).

reactant | (2-bromo-5-methoxyphenyl) [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amine | 690 mg | BrC1=C(C=C(C=C1)OC)NCC1=CC(=C(C=C1)OCCN1CCCCC1)F | C21H26BrFN2O2
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | N-(2-Bromo-5-methoxyphenyl)-N-[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]acetamide | 530 mg | BrC1=C(C=C(C=C1)OC)N(C(C)=O)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C23H28BrFN2O3
